US05457124
A mixture of 5.0 g (17.73 mmol) of 1-[2-hydroxy-4-(phenylmethoxy)-3-(2-propenyl)phenyl]ethanone, 2.3 g (19.48 mmol) of dimethylformamide dimethyl acetal, and 5.0 mL of xylene was stirred and heated in a 120°-130° C. oil-bath as methanol was distilled out using a 3 in. Vigreux column, over a 2.5 hr period. The bath temperature was then raised to 150°-160° C. and the reaction mixture was stirred at this temperature for an additional 30 min. The mixture was cooled and concentrated at 60° C./high vacuum. To the viscous, red-brown, oily residue was added 3.7 g (19.48 mmol) of p-toluenesulfonic acid monohydrate and 50 mL of ethanol. The resulting solution was stirred and refluxed for 24 hr, then cooled and diluted with water. Work-up with ether in the usual manner gave a crude product which was recrystallized from hexane-ethyl acetate. There was obtained 3.5 g (67.6%) of 7-(phenylmethoxy)-8-(2-propenyl)-4H-1-benzopyran-4-one as a yellow solid, mp 90°-92° C.

reactant | 1-[2-hydroxy-4-(phenylmethoxy)-3-(2-propenyl)phenyl]ethanone | 17.73 mmol, 5.0 g | OC1=C(C=CC(=C1CC=C)OCC1=CC=CC=C1)C(C)=O | C18H18O3
reactant | dimethylformamide dimethyl acetal | 19.48 mmol, 2.3 g | COC(N(C)C)OC | C5H13NO2
reactant | xylene | 5.0 mL | C=1(C(=CC=CC1)C)C | C8H10
reactant | p-toluenesulfonic acid monohydrate | 19.48 mmol, 3.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 7-(phenylmethoxy)-8-(2-propenyl)-4H-1-benzopyran-4-one | 3.5 g, 67.6% | C1(=CC=CC=C1)COC1=C(C2=C(C(C=CO2)=O)C=C1)CC=C | C19H16O3
